US08895733B2
Intermediate 228: 6-(Cyclohexyloxy)pyridine-3-carboxylic acid
6-Chloronicotinic acid (0.500 g, 3.17 mmol), powdered potassium hydroxide (0.712 g, 12.69 mmol) and cyclohexanol (0.636 g, 6.35 mmol) were combined in DMSO (12 mL) and heated in a sealed tube to 100 C for 18 h and then to 120 C for 21 h. The mixture was acidified to pH 1 by adding 2M hydrochloric acid. The mixture was then left to stand at room temperature overnight and the resultant precipitate filtered off, washed with water and dried under vacuum to afford the title compound as a cream solid (0.389 g, 55%). 1H NMR (500 MHZ, MeOH-d4) δ ppm 8.76 (1H, d), 8.19 (1H, dd), 6.79 (1H, d), 5.11 (1H, m), 2.03 (2H, m), 1.83 (2H, m), 1.64 (1H, m), 1.56 (2H, m), 1.47 (2H, m) and 1.38 (1H, m).

reactant | 6-Chloronicotinic acid | 3.17 mmol, 0.500 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | potassium hydroxide | 12.69 mmol, 0.712 g | [OH-].[K+]
reactant | cyclohexanol | 6.35 mmol, 0.636 g | C1(CCCCC1)O | C6H12O
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
product | 6-(Cyclohexyloxy)pyridine-3-carboxylic acid | 0.389 g, 55% | C1(CCCCC1)OC1=CC=C(C=N1)C(=O)O | C12H15NO3
